US06225311B1
To a solution of (2S)-2-({[4-(2-butynyloxy)phenyl]sulfonyl}amino)-3-[(3-hydroxypropyl)sulfanyl]-3-methylbutanoic acid (500 mg, 1.2 mmol) in dimethylformamide (10 mL) was added N-hydroxybenzotriazole (194 mg, 1.44 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodimide (322 mg, 1.68 mmol) followed by N-methylmorpholine (0.198 mL, 1.8 mmol) and the resulting mixture was stirred for 1 h at room temperature. A 50% aqueous solution of hydroxylamine (0.367 mL, 6 mmol) was added and the mixture was stirred for 15 h at room temperature. The solvent was removed and the product was partitioned between ethyl acetate and water. The organic layer was washed with 1N hydrochloric acid, saturated aqueous sodium bicarbonate solution, brine, and dried over anhydrous sodium sulfate. Removal of the solvent gave (2S)-2-({[4-(2-butynyloxy)phenyl]sulfonyl}amino)-N-hydroxy-3-[(3-hydroxypropyl)sulfanyl]-3-methylbutanamide, which was triturated with hexanes to obtain 130 mg (25%) of the pure product; HRMS (C18H26N2O6S2)(M+H);

reactant | (2S)-2-({[4-(2-butynyloxy)phenyl]sulfonyl}amino)-3-[(3-hydroxypropyl)sulfanyl]-3-methylbutanoic acid | 1.2 mmol, 500 mg | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(=O)O)C(C)(C)SCCCO | C18H25NO6S2
reactant | N-hydroxybenzotriazole | 1.44 mmol, 194 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodimide | 1.68 mmol, 322 mg | CN(CCCN=C=NCC)C | C8H17N3
reactant | N-methylmorpholine | 1.8 mmol, 0.198 mL | CN1CCOCC1 | C5H11NO
reactant | hydroxylamine | 6 mmol, 0.367 mL | NO | H3NO
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | (2S)-2-({[4-(2-butynyloxy)phenyl]sulfonyl}amino)-N-hydroxy-3-[(3-hydroxypropyl)sulfanyl]-3-methylbutanamide | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(=O)NO)C(C)(C)SCCCO | C18H26N2O6S2
